US07473786B1
5-Methyl-2-phenyl-benzo[b]furan (entry 1, Table 3):
The general procedure was used to convert phenylacetylene and 4-methyl-2-iodophenol to the title product. Purification by flash chromatography (hexanes as the eluent) gave the analytically pure product as a white solid (353 mg, 85% yield). 1H NMR (300 MHz, CDCl3) δ 7.81 (d, J=7.16, 2H), 7.41-7.30 (m, 5H), 7.06 (d, J=7.35, 1H), 6.88 (s, 1H), 2.41 (s, 3H). 13C NMR (75 MHz, CDCl3) δ 155.92, 153.29, 132.2, 130.57, 129.27, 128.70, 128.35, 125.49, 124.79, 120.70, 110.61, 101.06, 21.30. Anal. Calcd. for C15H12O: C, 86.51; H, 5.81. Found C, 86.28; H, 5.90. m.p.: 131° C. (lit., 6131-133° C.).

reactant | phenylacetylene | C1(=CC=CC=C1)C#C | C8H6
reactant | 4-methyl-2-iodophenol | CC1=CC(=C(C=C1)O)I | C7H7IO
product | 5-Methyl-2-phenyl-benzo[b]furan | CC1=CC2=C(OC(=C2)C2=CC=CC=C2)C=C1 | C15H12O
